US07923184B2
A mixture of 137 g of N-phenyl-4-chlorocarbonylphthalimide and methanol (1.37 L) was refluxed for 1 hr. The solid which formed on cooling was collected and dried to afford 128 g (94.7%) of N-phenyl-4-carbomethoxyphthalimide, Compound 1, mp 200-207° C. Recrystallization of 91.3 g from 2 L of acetonitrile yielded 77.8 g (80.7%) of Compound 1, mp 205-207° C.

reactant | N-phenyl-4-chlorocarbonylphthalimide | 137 g | C1(=CC=CC=C1)N1C(C=2C(C1=O)=CC(=CC2)C(=O)Cl)=O | C15H8ClNO3
reactant | methanol | 1.37 L | CO | CH4O
product | N-phenyl-4-carbomethoxyphthalimide | 128 g, 94.7% | C1(=CC=CC=C1)N1C(C=2C(C1=O)=CC(=CC2)C(=O)OC)=O | C16H11NO4
